US04232163
Preparation of 4' -chloro-N-methylacetoacetanilide
An appropriately fitted reaction flask was charged with 26.5 g (0.187 mole) of 4-chloro-N-methylaniline [prepared as described by Kadin in The Journal of Organic Chemistry, vol. 38, p. 1348 (1973)] and 90 ml of 1,2-dichloroethane. Dropwise addition of 16.7 g (0.2 mole) of diketene produced an exothermic response. The reaction solution was refluxed for four hours. Additional 1,2-dichloroethane was added and the organic phase was extracted with: (a) dilute hydrochloric acid, (b) water and (c) saturated aqueous sodium chloride. After drying the 1,2-dichloroethane solution over sodium sulfate, the solvent was evaporated under an efficient source of vacuum. The residual oil (38.9 g, 92%) was used in the following reaction without further purification. N.M.R. (CDCl3) ∂1.8 (CH3, enol), 2.2 (CH3, keto), 3.2 (NCH3), 3.7 (CH2), 4.8 (CH), 7.2-7.4 (aromatic).

reactant | 4-chloro-N-methylaniline | 0.187 mole, 26.5 g | ClC1=CC=C(NC)C=C1 | C7H8ClN
reactant | diketene | 0.2 mole, 16.7 g | C=C1CC(=O)O1 | C4H4O2
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 90 ml | ClCCCl | C2H4Cl2
product | 4' -chloro-N-methylacetoacetanilide | ClC1=CC=C(N(C(CC(=O)C)=O)C)C=C1 | C11H12ClNO2
